US20010004670A1
2,2,2-Trifluoro-1-(2-hydroxy-5-chlorophenyl)ethanol
12.5 g (100 mmol) of p-chlorophenol and 3.9 g (25 mmol) of 75% fluoral hydrate are introduced into a 100 ml reactor. 6 g of hydrotalcite Mg6AlGa(O4)16.4H2O are added and the mixture is heated at 100° C. for 7 hours. After treating the reaction medium according to the protocol described in Example 1, a yield of 45% of the expected product is obtained.

reactant | p-chlorophenol | 100 mmol, 12.5 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | fluoral hydrate | 25 mmol, 3.9 g | C(C(F)(F)F)(O)O | C2H3F3O2
product | 2,2,2-Trifluoro-1-(2-hydroxy-5-chlorophenyl)ethanol | yield of 45% | FC(C(O)C1=C(C=CC(=C1)Cl)O)(F)F | C8H6ClF3O2
